US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-(2-ethyloxyphenoxy)ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(1H-indol-3-yl)-1,1-dimethylethyl][2-(2-ethyloxy-phenoxy)ethyl]amine hydrochloride, m.p. 184°-186° C.

reactant | 2-(2-ethyloxyphenoxy)ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC | C11H16O5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine | N1C=C(C2=CC=CC=C12)CC(C)(C)N | C12H16N2
product | [2-(1H-indol-3-yl)-1,1-dimethylethyl][2-(2-ethyloxy-phenoxy)ethyl]amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CC(C)(C)NCCOC1=C(C=CC=C1)OCC | InChI=1S/C22H28N2O2.ClH/c1-4-25-20-11-7-8-12-21(20)26-14-13-24-22(2,3)15-17-16-23-19-10-6-5-9-18(17)19;/h5-12,16,23-24H,4,13-15H2,1-3H3;1H
